US06908913B2
(1S,5R,6S)-6-((1R)-1-Hydroxyethyl)-1-methyl-2-[7-(1-methyl-5-phenylpyridinium-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate (intramolecular salt) (Compound No. 26)
An N-quaternarized compound (84 mg) was prepared in substantially the same manner as in Example 24, except that 97 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(5-phenylpyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate and 0.063 ml of methyl iodide were used as the starting compounds. The title compound (20.3 mg) was prepared in substantially the same manner as in step c) of Example 1, except that this compound was used as the starting compound.

reactant | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(5-phenylpyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 97 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=C(C3)C3=CC=CC=C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C34H27N5O7S
reactant | methyl iodide | 0.063 ml | CI | CH3I
product | (1S,5R,6S)-6-((1R)-1-Hydroxyethyl)-1-methyl-2-[7-(1-methyl-5-phenylpyridinium-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 20.3 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=[N+](C=C(C3)C3=CC=CC=C3)C)C(=O)[O-])C1=O | C28H24N4O5S
